US06495546B1
Under nitrogen, a solution of 2-[8-[N-tert-butoxycarbonyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2yloxy]acetic acid (100 mg) in dichloromethane (3 ml) were added N-methylbutylamine (29 μl) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (47 mg) in the presence of catalytic amounts of 4-dimethylaminopyridine at 5° C., and the mixture was stirred at room temperature for 12 hours. The resulting mixture was poured into 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was successively washed with saturated aqueous sodium hydrogencarbonate and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:1) to give N-[3-[(butylmethylcarbamoyl)methoxy]-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-N-tert-butoxycarbonyl-[(2S)-2-hydroxy-3-phenoxypropyl]amine (96 mg).

reactant | 2-[8-[N-tert-butoxycarbonyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2yloxy]acetic acid | 100 mg | C(C)(C)(C)OC(=O)N(C[C@@H](COC1=CC=CC=C1)O)C1CCCC2=C(C1)C=C(C=C2)OCC(=O)O | C27H35NO7
reactant | N-methylbutylamine | 29 μl | CNCCCC | C5H13N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 47 mg | Cl.CN(CCCN=C=NCC)C
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[3-[(butylmethylcarbamoyl)methoxy]-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-N-tert-butoxycarbonyl-[(2S)-2-hydroxy-3-phenoxypropyl]amine | 96 mg | C(CCC)N(C(=O)COC1=CC2=C(CCCC(C2)N(C(=O)OC(C)(C)C)C[C@@H](COC2=CC=CC=C2)O)C=C1)C | C32H46N2O6
